US04339440
52 g (500 mmoles) of sodium bisulfite are dissolved in 250 ml of warm water, 53.6 ml (510 mmoles) of n-valeraldehyde are added, and the resulting orange-red mixture is stirred on a steam bath until it turns colorless. The solution is cooled to room temperature, 400 ml of concentrated aqueous ammonia are added, the mixture is stirred at room temperature for one hour, and then allowed to stand in a refrigerator overnight. The reaction mixture is washed with 100 ml of diethyl ether, decolourized with carbon, filtered, and the pH of the filtrate is adjusted to 3 with concentrated aqueous hydrochloric acid under cooling. The separated crystalline substance is filtered off, washed with water and diethyl ether, and dried in a vacuum desiccator. 47.6 g (56.8%) of DL-α-aminopentanesulfonic acid are obtained; m.p.: 142° C., Rf9 =0.3-0.4.

reactant | sodium bisulfite | 500 mmoles, 52 g | S([O-])(O)=O.[Na+]
reactant | n-valeraldehyde | 510 mmoles, 53.6 ml | CCCCC=O | C5H10O
reactant | ammonia | 400 ml | N | H3N
solvent | water | 250 ml | O | H2O
product | α-aminopentanesulfonic acid | NC(CCCC)S(=O)(=O)O | C5H13NO3S
